US08022062B2
7-Chloro-6-[(5-methylfuran-2-ylmethyl)-amino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Combine 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (100 mg, 0.24 mmol), 2-(di-tert-butylphosphino)-biphenyl (6.8 mg, 0.023 mmol), tris(dibenzylideneacetone)dipalladium (11 mg, 0.012 mmol) and potassium phosphate (70 mg, 0.33 mmol) in a pressure tube and degas. Dissolve the mixture in dry toluene (2 mL) and degas. Add a solution of 5-methylfurfurylamine (30 mg, 0.27 mmol) in toluene (1 mL) and degas. Stir at 90° C. for 24 h. Cool to ambient temperature, dilute with ethyl ether and filter through Celite®. Concentrate and purify by chromatography on silica gel eluting with hexane/EtOAc (20:1). Remove the solvent and add 7M ammonia in methanol (4 mL). Stir at ambient temperature for 24 h. Concentrate and purify by SCX chromatography to give the free base of the title compound. Use a method similar to the General Procedure 2-2 to obtain the title compound as a solid (56 mg, 66%). MS (ES+) m/z: 291 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.24 mmol, 100 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 2-(di-tert-butylphosphino)-biphenyl | 0.023 mmol, 6.8 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | potassium phosphate | 0.33 mmol, 70 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 5-methylfurfurylamine | 0.27 mmol, 30 mg | CC1=CC=C(CN)O1 | C6H9NO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.012 mmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-Chloro-6-[(5-methylfuran-2-ylmethyl)-amino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)NCC=1OC(=CC1)C | InChI=1S/C16H19ClN2O.ClH/c1-11-2-4-13(20-11)10-19-16-14-7-9-18-8-6-12(14)3-5-15(16)17;/h2-5,18-19H,6-10H2,1H3;1H
